US08304419B2
To a solution of ethyl 4-cyano-1H-imidazole-5-carboxylate (0.025 g, 0.152 mmol) in THF/MeOH/H2O (1:1:1, 1.5 mL) was added lithium hydroxide (0.036 g, 1.52 mmol) and the solution stirred overnight at RT. An aqueous solution of 2.5 N HCl (0.6 mL, 0.240 mmol) was added, the solvents evaporated, and the mixture was azeotroped with toluene (1 mL) and ether (2 mL) successively, and placed under high vacuum. To the crude intermediate dissolved in DMF (1 mL) was added HATU (0.063 g, 0.166 mmol), DIPEA (0.040 mL, 0.226 mmol), 3-{[3-aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.052 g, 0.167 mmol). The reaction mixture was stirred 3 h. Purification was accomplished by RPHPLC (water:acetonitrile with 0.1% TFA). The desired fractions were lyophilized and triturated with ethyl acetate to afford N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-cyano-1H-imidazole-5-carboxamide (0.018 g, 28%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 8.92-8.99 (m, 1H) 8.07 (s, 1H) 7.79 (s, 1H) 7.40-7.51 (m, 3H) 7.36 (t, 1H) 4.49 (d, 2H). MS: m/z 430.1 (M+1).

reactant | ethyl 4-cyano-1H-imidazole-5-carboxylate | 0.152 mmol, 0.025 g | C(#N)C=1N=CNC1C(=O)OCC | C7H7N3O2
reactant | lithium hydroxide | 1.52 mmol, 0.036 g | [OH-].[Li+]
reactant | HCl | 0.240 mmol, 2.5 N, 0.6 mL | Cl | ClH
reactant | HATU | 0.166 mmol, 0.063 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.226 mmol, 0.040 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-chlorobenzonitrile | 0.167 mmol, 0.052 g | ClC=1C=CC=C(C#N)C1 | C7H4ClN
reactant | THF MeOH H2O | 1.5 mL | C1CCOC1.CO.O
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-cyano-1H-imidazole-5-carboxamide | 0.018 g, 28% | ClC1=C(C(=C(C=C1)CNC(=O)C1=C(N=CN1)C#N)F)OC1=CC(=CC(=C1)C#N)Cl | C19H10Cl2FN5O2
